US04206137
(b) cis-1,2-Cyclopentanedicarboxylic acid
1-Cyclopentene-1,2-dicarboxylic acid (10.0 g., 0.064 mole) in 200 ml. of absolute ethanol is hydrogenated (Paar shaker) in the presence of Raney nickel at 40-50 psi/60°. After uptake of one equivalent of hydrogen (~24 hours), the mixture is cooled, filtered through a Celite (diatomaceous earth) pad, and the filtrate concentrated in vacuo to a solid. Direct recrystallization from water (~30 ml.) followed by drying in vacuo over phosphorus pentoxide yields 6 g. (60%) of cis-1,2-cyclopentanecarboxylic acid, m.p. 132°-135°. The mother liquor from the recrystallization can be lyophilized to a solid, which is sufficiently pure for use in the next step.

reactant | 1-Cyclopentene-1,2-dicarboxylic acid | 0.064 mole, 10.0 g | C1(=C(CCC1)C(=O)O)C(=O)O | C7H8O4
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | cis-1,2-Cyclopentanedicarboxylic acid | [C@@H]1([C@H](CCC1)C(=O)O)C(=O)O | C7H10O4
